Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Shellfish Derived / Bee Pollen
 
Attending: ___.
 
Chief Complaint:
Left abdominal and back pain

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ year old G3P0 who presented at 8w5d by early 
first trimester US who presented to the ED with left lower 
abdominal and low back pain which became worse when she was 
driving. Reports the pain as intense cramping. She also had some 
vaginal bleeding which she described as having gone through 4
thin pads. Her bleeding has since significantly lightened. 

Of note, patient was recently diagnosed with a UTI from her 
initial OB appointment, but had not yet initiated antibiotics.

 
Past Medical History:
PNC:
1. ___: ___ by first trimester US
2. A+/Ab neg/HBsAg neg/HCV AB neg/HIV neg/RI/RPR NR/GC neg/CT 
neg

OBHx:
TAB x 1 @ 16 weeks 
Ectopic pregnancy 

GynHx: Denies history of STI's or abnormal Pap tests

PMH:
Asthma
History of depression, anxiety--> stopped Seroquel ___ months
before

PSH:
D&C

 
Social History:
Prior tobacco use. No alcohol or drug use

 
Physical Exam:
Exam on Admission:
98.1 79 107/58 18 99%RA
NAD, well appearing
CV: RRR
Pulm: CTAB
Abdomen: soft, non-distended, + TTP in LLQ with + voluntary
guarding, no rebound tenderness
Back: No CVA tenderness, + left sacroiliac tenderness
Pelvic: normal external genitalia, scant old blood in vault, no 
active bleeding, + CMT and + left adnexal tenderness, no masses 
appreciated, no discharge

 
Pertinent Results:
___ 01:00AM BLOOD WBC-9.9 RBC-4.48 Hgb-12.7 Hct-36.9 MCV-82 
MCH-28.4 MCHC-34.5 RDW-12.8 Plt ___
___ 01:00AM BLOOD Neuts-67.0 ___ Monos-5.0 Eos-1.2 
Baso-0.5
___ 01:00AM BLOOD Glucose-81 UreaN-3* Creat-0.8 Na-139 
K-3.7 Cl-103 HCO3-21* AnGap-19
___ 01:23AM BLOOD ___ Temp-36.4 Comment-GREEN TOP 
___ 01:23AM BLOOD Hgb-13.3 calcHCT-40

OB US: IMPRESSION:  Single living intrauterine gestation, which 
by size measures 8  weeks and 3 days.  There has been 
appropriate interval growth since the prior  exam. 
  
RENAL US: IMPRESSION:  No evidence of hydronephrosis or renal 
stones.  Ultrasound is not sensitive for the detection of 
pyelonephritis, although no perinephric fluid collection is 
identified.  

 
Brief Hospital Course:
Ms. ___ is a ___ year old G3P0 with LLQ pain, CMT concerning 
for PID and untreated UTI. Given early pregnancy, she was 
admitted for IV abx. GC/CT collected 1 week ago neg for GC/CT 
therefore not repeated. She received Ceftriaxone IM x 1 and then 
started IV Gentamicin and Clindamycin. She was afebrile for 24 
hours in house and transitioned to po antibiotics. 

She had a history of UTI that had been treated at the time of 
presentation. There were no concerning features on renal US. Her 
UTI was sensitive to gentamicin.

Regarding her vaginal bleeding, she had no active bleeding in 
triage and US demonstrated a live IUP size c/w dates. 

The patient was stable the following day and discharged to home 
on po antibiotics.
 
Medications on Admission:
Flagyl x 7 days (today day #5)
Albuterol PRN
Atrovent PRN

 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN pain 
RX *acetaminophen [Acetaminophen Extra Strength] 500 mg 1 to 2 
tablet(s) by mouth every six (6) hours Disp #*60 Tablet 
Refills:*1
2. Nitrofurantoin (Macrodantin) 100 mg PO BID 
RX *nitrofurantoin macrocrystal 100 mg 1 capsule(s) by mouth 
twice a day Disp #*20 Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
IUP 8weeks
Bladder infection (UTI)

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
routine
 
Followup Instructions:
___